US05473074
II. Synthesis of 3-nitrosobenzamide
To a stirred solution of 3-aminobenzamide (Aldrich Chemical Co.) (0.476 g, 3.50 mmol) in ethyl acetate (50 ml) at ambient temperature was added 1.208 g of 3-chloroperoxybenzoic acid (commercial grade, 50-60% purity, Aldrich), whereupon the solution turned green. After 10 minutes the mixture was extracted with 0.14M aqueous sodium bicarbonate (58 ml), washed with three successive 40-ml portions of water, dried over sodium sulfate, then reduced in volume to 20 mL by rotary evaporation and placed in the freezer (-20° C.), whereupon the product slowly deposited as a light yellow solid during a period of 72 hours (0.180 g, 34% yield).

reactant | 3-aminobenzamide | 3.50 mmol, 0.476 g | NC=1C=C(C(=O)N)C=CC1 | C7H8N2O
reactant | 3-chloroperoxybenzoic acid | 1.208 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 3-nitrosobenzamide | 34% yield | N(=O)C=1C=C(C(=O)N)C=CC1 | C7H6N2O2
